US03950342
The sodium salt of p-hydroxybenzonitrile (1 ml) was heated with 2,4-dicyanonitrobenzene (1mole) in dry dimethyl sulphoxide for 18 hours at 105° to form 4-(2,4 -dicyanophenoxy) benzonitrile m.p. 222°-223°, which was recovered by dilution with water, and purified by crystallisation from acetic acid. This compound was hydrolysed with 60% w/w aqueous sulphuric acid (25 pts.) mixed with glacial acetic acid (10 parts), refluxing the mixture for 24 hours; on cooling, diphenyl ether 2,4,4' -tricarboxylic acid separated. The tricarboxylic acid was cyclized either (a) by heating to 300° for 5 minutes, or (b) dissolving in concentrated sulphuric acid, heating at 100° for 3 hours and subsequently diluting with water. The solid resulting from (a) or from (b) was recrystallised from dimethyl formamide to give xanthone-2,7-dicarboxylic acid identical with that prepared by Methods (i) and (ii).

reactant | sodium | [Na] | Na
reactant | p-hydroxybenzonitrile | 1 ml | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | 2,4-dicyanonitrobenzene | 1mole | C(#N)C1=C(C=CC(=C1)C#N)[N+](=O)[O-] | C8H3N3O2
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
product | 4-(2,4 -dicyanophenoxy) benzonitrile | C(#N)C1=C(OC2=CC=C(C#N)C=C2)C=CC(=C1)C#N | C15H7N3O
